US07432262B2
b) dimethyl 2-bromo-1-(but-2-ynyl)-1H-imidazole-4,5-dicarboxylate
3.06 g 1-bromo-2-butyne are added dropwise to a mixture of 6.00 g of dimethyl 2-bromo-1H-imidazole-4,5-dicarboxylate and 3.80 g of potassium carbonate in 40 ml of dimethylformamide. The mixture is stirred for 12 h at ambient temperature and then added to an aqueous saturated solution of sodium thiosulphate. The organic phase is separated off and the aqueous phase is extracted three times with ethyl acetate. The combined organic phases are dried over sodium sulphate, the solvent is removed and the residue is chromatographed over silica gel (cyclohexane/ethyl acetate 4:1>1:1).

reactant | 1-bromo-2-butyne | 3.06 g | BrCC#CC | C4H5Br
reactant | dimethyl 2-bromo-1H-imidazole-4,5-dicarboxylate | 6.00 g | BrC=1NC(=C(N1)C(=O)OC)C(=O)OC | C7H7BrN2O4
reactant | potassium carbonate | 3.80 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium thiosulphate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | dimethyl 2-bromo-1-(but-2-ynyl)-1H-imidazole-4,5-dicarboxylate | BrC=1N(C(=C(N1)C(=O)OC)C(=O)OC)CC#CC | C11H11BrN2O4
